US05244907
N-(1-Azabicyclo[3.3.1]non-5-ylmethyl)-5-chloro-2-methoxy-4-(methylamino)benzamide
A solution of 5-chloro-2-methoxy-4-(methylamino)benzoic acid (1.08 g, 5 mmol) in anhydrous tetrahydrofuran (7 mL) under nitrogen was treated with 1,1'-carbonyldiimidazole (0.90 g, 5.5 mmol), stirred one hour, degassed under a stream of nitrogen for 10 minutes, and cooled (0° C.). A solution of 1-azabicyclo[3.3.1]nonane-5-methanamine (0.82 g, 5.3 mmol) in tetrahydrofuran (3 mL) was added dropwise, and stirring was continued at room temperature for 18 hours. The suspension was diluted with enough methanol to dissolve the solid, then the solution was filtered through a short column of alumina (eluted with 20% methanol/tetrahydrofuran). The filtrate was concentrated in vacuo, triturated from cold ether, and recrystallized from acetonitrile to afford 1.29 g (73%) of colorless crystals; mp 188°-190° C. (second phase), first phase melting point 175° C.

reactant | 5-chloro-2-methoxy-4-(methylamino)benzoic acid | 5 mmol, 1.08 g | ClC=1C(=CC(=C(C(=O)O)C1)OC)NC | C9H10ClNO3
reactant | 1,1'-carbonyldiimidazole | 5.5 mmol, 0.90 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-azabicyclo[3.3.1]nonane-5-methanamine | 5.3 mmol, 0.82 g | N12CCCC(CCC1)(C2)CN | C9H18N2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-(1-Azabicyclo[3.3.1]non-5-ylmethyl)-5-chloro-2-methoxy-4-(methylamino)benzamide | 1.29 g, 73% | N12CCCC(CCC1)(C2)CNC(C2=C(C=C(C(=C2)Cl)NC)OC)=O | C18H26ClN3O2
